US08003662B2
Step B: Preparation of 4-(cyclopropylmethyl)-3-oxo-3,4-dihydropyrazine-2-carboxylic acid:
LiOH (0.84 mL, 0.84 mmol, 1.0 M) was added to a solution of methyl 4-(cyclopropylmethyl)-3-oxo-3,4-dihydropyrazine-2-carboxylate (87 mg, 0.42 mmol) in a mixture of THF-MeOH (3:1 ratio, 2 mL) at room temperature. After stirring for 2 hours, the reaction mixture was acidified to pH 1 with aq. 1N HCl solution (0.14 mL) and then concentrated to afford the desired product salt. 1H NMR (400 MHz, CD3OD) δ 7.67 (d, 1H), 7.37 (m, 1H), 3.86 (d, 2H), 1.32 (m, 1H), 0.61 (m, 2H), 0.45 (m, 2H).

reactant | LiOH | 0.84 mmol, 1.0 M, 0.84 mL | [Li+].[OH-]
reactant | methyl 4-(cyclopropylmethyl)-3-oxo-3,4-dihydropyrazine-2-carboxylate | 0.42 mmol, 87 mg | C1(CC1)CN1C(C(=NC=C1)C(=O)OC)=O | C10H12N2O3
reactant | HCl | 1N, 0.14 mL | Cl | ClH
solvent | THF MeOH | 2 mL | C1CCOC1.CO
product | 4-(cyclopropylmethyl)-3-oxo-3,4-dihydropyrazine-2-carboxylic acid | C1(CC1)CN1C(C(=NC=C1)C(=O)O)=O | C9H10N2O3
